US04327094
2-Propargyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine
A mixture of 1.34 g 2-propargyl-3-methylthio-5-oxo-2,3-dihydro-1,2,4-triazine, 5 ml conc. hydrochloric acid and 10 ml ethyl alcohol was heated under reflux for 1.5 hours. After cooling to room temperature, the solvent was removed under reduced pressure to obtain a yellow solid. This solid was recrystallized from ethyl alcohol to obtain 0.92 g of a white crystal.

reactant | 2-propargyl-3-methylthio-5-oxo-2,3-dihydro-1,2,4-triazine | 1.34 g | C(C#C)N1N=CC(NC1SC)=O | C7H9N3OS
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | ethyl alcohol | 10 ml | C(C)O | C2H6O
product | 2-Propargyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 0.92 g, Yield 82.1% | C(C#C)N1N=CC(NC1=O)=O | C6H5N3O2
